US05185351
(iv) methyl-4-[(2-butyl-5-formyl-1H-imidazol-1-yl)-methyl]naphthalene-1-carboxylate
A suspension of 40.0 g (83.9 mmol) of methyl-4-[(2-Butyl-5-formyl-4-iodo-1H-imidazol-1-yl)methyl]naphthalene-1-carboxylate, 9.07 g (92.4 mmol) of potassium acetate, and 6.0 g of 10% palladium on carbon in 1.2 liters of ethyl acetate was hydrogenated for 2 hours. The solids were removed by filtration and an additional 8.0 g of 10% palladium on carbon and 9.01 g (92.4 mmol) of potassium acetate was added. After hydrogenating the reation mixture an additional 2 hours, the solids were removed by filtration and the solution was concentrated to about 1/3 volume. The ethyl acetate solution was washed with aqueous sodium carbonate solution, dried over magnesium sulfate, and concentrated under vacuum to give an oil which crystallized. Recrystallization from methylene chloride-hexane gave 25.77 g (87.6%) of colorless crystals; mp 95.5°-97° C.

reactant | methyl-4-[(2-Butyl-5-formyl-4-iodo-1H-imidazol-1-yl)methyl]naphthalene-1-carboxylate | 83.9 mmol, 40.0 g | COC(=O)C1=CC=C(C2=CC=CC=C12)CN1C(=NC(=C1C=O)I)CCCC | C21H21IN2O3
reactant | potassium acetate | 92.4 mmol, 9.07 g | C(C)(=O)[O-].[K+]
reactant | potassium acetate | 92.4 mmol, 9.01 g | C(C)(=O)[O-].[K+]
catalyst | palladium on carbon | 6.0 g | [Pd] | Pd
solvent | ethyl acetate | 1.2 liters | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 8.0 g | [Pd] | Pd
product | methyl-4-[(2-butyl-5-formyl-1H-imidazol-1-yl)-methyl]naphthalene-1-carboxylate | 25.77 g, 87.6% | COC(=O)C1=CC=C(C2=CC=CC=C12)CN1C(=NC=C1C=O)CCCC | C21H22N2O3
